US05498609
To a solution of 6-aminonicotinic acid methyl ester (4 g) in pyridine (40 ml) is added with stirring 2-methylbenzoyl chloride (6.73 g) under ice-cooling, and the mixture is stirred at room temperature overnight. To the reaction solution is added water, and the precipitated crystals are collected by filtration, and dried to give 6-(2-methylbenzoylamino)nicotinic acid methyl ester (5.7 g) as white powder.

reactant | 6-aminonicotinic acid methyl ester | 4 g | COC(C1=CN=C(C=C1)N)=O | C7H8N2O2
reactant | 2-methylbenzoyl chloride | 6.73 g | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | water | O | H2O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 6-(2-methylbenzoylamino)nicotinic acid methyl ester | 5.7 g | COC(C1=CN=C(C=C1)NC(C1=C(C=CC=C1)C)=O)=O | C15H14N2O3
